US07476679B2
Into a 500-mL flask containing 2-(3-butenyloxy)tetrahydropyran (49.0 g, 0.314 mol) in CH2Cl2 (500 mL) under a nitrogen atmosphere and cooled to 0° C. was added freshly crystallized m-chloroperoxybenzoic acid (95 g, 0.55 mol). The mixture was maintained at 0° C. for a period of 24 h. The precipitated benzoic acid was removed via vacuum filtration. The filtrate thus obtained was washed successively with 10% aqueous sodium hydroxide (500 mL) and saturated aqueous sodium sulfite (500 mL), respectively, the organic layer dried over anhydrous MgSO4 and concentrated in vacuo to afford tetrahydro-2-(oxiranylethoxy)-2H-pyran as a pure clear colorless liquid (52 g, 95%), which was used without any further purification: 1H NMR (CDCl3, 300 MHz) δ 4.62 (s, 1H], 3.86-3.92 [m, 2H], 3.52-3.55 [m, 2H], 3.08 [br, 1H], 2.78-2.81 [t, J=3 Hz, 1H], 2.53-2.55 [t, J=3 Hz, 1H], 1.53-1.88 [m, 8H].

reactant | 2-(3-butenyloxy)tetrahydropyran | 0.314 mol, 49.0 g | C(CC=C)OC1OCCCC1 | C9H16O2
reactant | m-chloroperoxybenzoic acid | 0.55 mol, 95 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | tetrahydro-2-(oxiranylethoxy)-2H-pyran | 52 g, 95% | O1C(C1)CCOC1OCCCC1 | C9H16O3
